** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc_tb/bootstrap_tb.sch
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt bootstrap_tb
xbootstrap clk clkb vin vout vsup 0 bootstrap
Vstimulus clk 0 PULSE(0 1.8 100n 100p 100p 15n 100n)
Vsupply vsup 0 1.8
Vin vin 0 DC 0.1
Cload vout 0 1.25p
x2 clk 0 0 vsup vsup clkb sky130_fd_sc_hd__inv_2
**** begin user architecture code


.ic v(vout)=0
.control
 set filetype = ascii
 set wr_vecnames

 echo '' > tb1_track_hold.log
 echo '=== TB1a  boost / settling / droop  vs  vin ======================' >> tb1_track_hold.log
 echo 'boost_err  = 1.8 - max(vgate-vin)  selama track        [target < 50 mV]' >> tb1_track_hold.log
 echo 'ripple     = variasi (vgate-vin) selama track          [target < 10 mV]' >> tb1_track_hold.log
 echo 'vgate_hold = max vgate selama hold                     [target < 50 mV]' >> tb1_track_hold.log
 echo 't_settle   = waktu vout capai 0.5 LSB dari step FS     [target < 15 ns]' >> tb1_track_hold.log
 echo 'err_track  = vin - vout di ujung jendela track         [target < 3.5 mV]' >> tb1_track_hold.log
 echo 'droop      = perubahan vout selama 84 ns hold          [target < 3.5 mV]' >> tb1_track_hold.log
 echo '' >> tb1_track_hold.log

 foreach vsweep 0.1 0.45 0.9 1.35 1.7
  alter Vin dc = $vsweep
  tran 20p 700n
  setplot $curplot

  **Boost Accuracy
  let vboost = v(xbootstrap.vgate) - v(vin)
  meas tran bmin MIN vboost FROM=502n TO=514n
  meas tran bmax MAX vboost FROM=502n TO=514n
  let berr    = (1.8 - bmax)*1e3
  let bripple = (bmax - bmin)*1e3

  **Vgate Hold
  meas tran vgh MAX v(xbootstrap.vgate) FROM=560n TO=595n
  let vgh_mv = vgh*1e3

  ** Settling
  let vtgt = $vsweep - 3.516e-3
  meas tran tset WHEN v(vout)=$&vtgt RISE=1
  let tset_ns = (tset - 100e-9)*1e9
  meas tran vend FIND v(vout) AT=114.9n
  let errtrack = ($vsweep - vend)*1e3

  **Droop
  meas tran vh0 FIND v(vout) AT=514.9n
  meas tran vh1 FIND v(vout) AT=599n
  let droop = (vh1 - vh0)*1e3

  echo 'vin=$vsweep | boost_err=$&berr mV | ripple=$&bripple mV | vgate_hold=$&vgh_mv mV | t_settle=$&tset_ns ns | err_track=$&errtrack mV | droop=$&droop mV' >> tb1_track_hold.log
 end


 echo '' >> tb1_track_hold.log
 echo '=== RELIABILITY (vin = 1.70 V, worst case, siklus 5) ===========' >> tb1_track_hold.log
 echo 'Batas sky130 1.8V device: |V| <= 1.98 V' >> tb1_track_hold.log
 echo '' >> tb1_track_hold.log
 alter Vin dc = 1.70
 tran 20p 700n

 let sw_vgs   = v(xbootstrap.vgate) - v(vin)
 let sw_vgd   = v(xbootstrap.vgate) - v(vout)
 let chtop_v  = v(xbootstrap.ctop)  - v(vsup)
 let drv1_vds = v(xbootstrap.vgate) - v(xbootstrap.net1)
 let drv2_vds = v(xbootstrap.net1)
 let distop_v = v(xbootstrap.vgdistop) - v(xbootstrap.ctop)
 let cboot_v  = v(xbootstrap.ctop) - v(xbootstrap.cbot)

 meas tran m1 MAX  v(xbootstrap.ctop)  FROM=500n TO=600n
 meas tran m2 MAX  v(xbootstrap.vgate) FROM=500n TO=600n
 meas tran m3 MAX  sw_vgs      FROM=500n TO=600n
 meas tran m4 MIN  sw_vgs      FROM=500n TO=600n
 meas tran m5 MAX  sw_vgd      FROM=500n TO=600n
 meas tran m6 MAX  chtop_v     FROM=500n TO=600n
 meas tran m7 MAX  drv1_vds    FROM=500n TO=600n
 meas tran m8 MAX  drv2_vds    FROM=500n TO=600n
 meas tran m9 MIN  distop_v    FROM=500n TO=600n
 meas tran m10 MAX cboot_v     FROM=500n TO=600n

 let m9p = -m9
 echo '  v(ctop) max              = $&m1 V'					>> tb1_track_hold.log
 echo '  v(vgate) max             = $&m2 V'					>> tb1_track_hold.log
 echo '  Mswitch     Vgs max      = $&m3 V     (harus ~1.8 = boost penuh)'	>> tb1_track_hold.log
 echo '  Mswitch     Vgs min      = $&m4 V     (saat hold, = -vin)'		>> tb1_track_hold.log
 echo '  Mswitch     Vgd max      = $&m5 V'					>> tb1_track_hold.log
 echo '  Mchtop      |Vds| max    = $&m6 V     (ctop-vdd)'			>> tb1_track_hold.log
 echo '  Mchtopdrv1  Vds max      = $&m7 V     <-- titik stres tertinggi'	>> tb1_track_hold.log
 echo '  Mchtopdrv2  Vds max      = $&m8 V'					>> tb1_track_hold.log
 echo '  Mdistop     |Vgs| max    = $&m9p V'					>> tb1_track_hold.log
 echo '  Cboot       V max        = $&m10 V'					>> tb1_track_hold.log
 echo ''

 write tb1_track_hold.raw v(vin) v(vout) v(clk) v(clkb) v(xbootstrap.vgate) v(xbootstrap.ctop) v(xbootstrap.cbot) v(xbootstrap.vgdistop) v(xbootstrap.net1)

.endc


**** end user architecture code
**.ends

* expanding   symbol:  bootstrap.sym # of pins=6
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/bootstrap.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/bootstrap.sch
.subckt bootstrap clk clkb vin vout vdd vss
*.ipin clk
*.ipin clkb
*.ipin vin
*.opin vout
*.iopin vdd
*.iopin vss
XMswitch vin vgate vout vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMdisbot cbot vgate vin vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XCboot ctop cbot sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=1
XMdistop vgate vgdistop ctop ctop sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1
XMchtop ctop vgate vdd ctop sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMdistopdrv vgdistop vgate cbot vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1
XMchtopdrv1 vgate vdd net1 vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMchtopdrv2 net1 clkb vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMchbot cbot clkb vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM1 vgdistop clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM2 vgdistop clk cbot vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends

.end
